datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28])([H:6])([H:7])[H:8],4.72792
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10],27.7399
[C:0]([C:1]1([H:13])[C:2]([H:14])=[C:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]21)([H:10])([H:11])[H:12].[H:20]>>[C:0]([C:1]1([H:13])[C:2]([H:14])[C:3]([H:15])([H:20])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]21)([H:10])([H:11])[H:12],14.300912
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][H:11],18.706664
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16]([C:15]([H:24])([H:25])[H:26])([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])[H:8])[H:7],31.7566
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17]([C:18]([C:19]([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23],43.5136
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:13])[H:12])([H:10])[H:11],68.0737
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([S:7][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:8])([H:9])[H:10])([S:7][H:12])[H:11],-18.828
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[S:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9](=[S:10])[H:11],36.8192
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11](=[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])[H:21])([H:19])[H:20])[H:6])([H:4])[H:5],43.2207
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[S:10]([C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19])[H:18]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([S:10][H:18])([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19],57.4045
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:13])[H:6].[C:11]([C:12]([H:16])([H:17])[H:18])([H:14])[H:15],99.5792
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([H:17])([H:18])[H:19])[H:16])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:12](=[C:13]([C:14]([H:17])([H:18])[H:19])[H:16])[H:15],85.772
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])([H:13])[H:14],82.4248
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]2([H:18])[C:7]1([H:19])[H:20].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:32])[H:33])[H:31])([H:29])[H:30])[H:28])([H:26])[H:27]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:29])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]2([H:18])[C:7]1([H:19])[H:20].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:32])[H:33])[H:31])[H:30])[H:28])([H:26])[H:27],24.6856
